US08008307B2
Step a: (1S,3S,4S)-3-[(benzyloxy)methyl]-4-{[tert-butyl(dimethyl)silyl]oxy}cyclopentanol
A suspension of (1R,4S)-3-[(benzyloxy)methyl]-4-{[tert-butyl(dimethyl)silyl]-oxy}cyclopent-2-en-1-ol (7.54 g, 0.0225 mol) (Ruediger, E; Martel, A; Meanwell, N; Solomon, C; Turmel, B. Tetrahedron Lett. 2004, 45, 739-742), sodium carbonate (5.7 g, 0.054 mol) and 10% Pd/C (2 g, 0.002 mol) in EtOAc (90 mL) was stirred under an atmosphere of hydrogen for three hours. The reaction flask was purged with nitrogen and the mixture was filtered through celite with EtOAc. The filtrate was concentrated to obtain 7.16 g (76%) of the title compound as a 4:1 mixture of diastereomers (desired:undesired).

reactant | (1R,4S)-3-[(benzyloxy)methyl]-4-{[tert-butyl(dimethyl)silyl]-oxy}cyclopent-2-en-1-ol | 0.0225 mol, 7.54 g | C(C1=CC=CC=C1)OCC1=C[C@@H](C[C@@H]1O[Si](C)(C)C(C)(C)C)O | C19H30O3Si
reactant | sodium carbonate | 0.054 mol, 5.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOAc | 90 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.002 mol, 2 g | [Pd] | Pd
product | (1S,3S,4S)-3-[(benzyloxy)methyl]-4-{[tert-butyl(dimethyl)silyl]oxy}cyclopentanol | 7.16 g, 76% | C(C1=CC=CC=C1)OC[C@@H]1C[C@@H](C[C@@H]1O[Si](C)(C)C(C)(C)C)O | C19H32O3Si
